US04851413
To a solution of 5.4 g (21.2 mmol) of 3,5,6-trimethyl-2-[1-(3-pyridyl)ethyl]-1,4-benzoquinone in ethanol (30 ml), 1.8 ml of concentrated hydrochloric acid was added and the resultant solution was concentrated under reduced pressure. To the residue ethyl acetate was added and the resultant crystals were collected by filtration and recrystallized from ethanol-ethyl acetate, to give 5.6 g (91%) of 3,5,6-trimethyl-2-[1-(3-pyridyl)ethyl]-1,4-benzoquinone hydrochloride.

reactant | 3,5,6-trimethyl-2-[1-(3-pyridyl)ethyl]-1,4-benzoquinone | 21.2 mmol, 5.4 g | CC1=C(C(C(=C(C1=O)C)C)=O)C(C)C=1C=NC=CC1 | C16H17NO2
reactant | hydrochloric acid | 1.8 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3,5,6-trimethyl-2-[1-(3-pyridyl)ethyl]-1,4-benzoquinone hydrochloride | 5.6 g, 91% | Cl.CC1=C(C(C(=C(C1=O)C)C)=O)C(C)C=1C=NC=CC1 | InChI=1S/C16H17NO2.ClH/c1-9-10(2)16(19)14(12(4)15(9)18)11(3)13-6-5-7-17-8-13;/h5-8,11H,1-4H3;1H
